US04183933
To 0.56 mole of lithium diisopropylamide, prepared from n-butyllithium and diisopropylamine in tetrahydrofuran, was added at -10° C. 84.6 g (0.56 mole) of β-dimethylaminoethylpyrazine in 1200 ml of tetrahydrofuran over a period of 30 minutes. The reaction mixture was stirred for additional 30 minutes. The deep red-coloured reaction mixture was cooled to -30° C. and 95.4 g (0.56 mole) of methyl iodide was added over a period of 20 minutes and the reaction mixture was stirred for three additional hours at room temperature. The mixture was poured onto ice and extracted with ether. The combined extracts were dried over sodium sulphate and the ether removed by distillation. The residue was distilled to give 91.0 g of β-dimethylamino-α-methylethylpyrazine, b.p. 90°-93° C. at 9 mm Hg.

reactant | lithium diisopropylamide | 0.56 mole | C(C)(C)[N-]C(C)C.[Li+]
reactant | n-butyllithium | C(CCC)[Li]
reactant | diisopropylamine | C(C)(C)NC(C)C | C6H15N
reactant | β-dimethylaminoethylpyrazine | 0.56 mole, 84.6 g | CN(CCC1=NC=CN=C1)C | C8H13N3
reactant | methyl iodide | 0.56 mole, 95.4 g | CI | CH3I
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 1200 ml | O1CCCC1 | C4H8O
product | β-dimethylamino-α-methylethylpyrazine | 91.0 g | CN(CC(C)C1=NC=CN=C1)C | C9H15N3
